US04616086
Methyl 4-[1-(2-hydroxypropyl)-piperazin-4-ylmethyl]-benzoate
This is prepared analogously to Example 11 from methyl 4-(piperazin-1-ylmethyl)-benzoate and propylene oxide. Yield 63% of theory; m.p. 63°-64° C.

reactant | methyl 4-(piperazin-1-ylmethyl)-benzoate | N1(CCNCC1)CC1=CC=C(C(=O)OC)C=C1 | C13H18N2O2
reactant | propylene oxide | C1C(C)O1 | C3H6O
product | Methyl 4-[1-(2-hydroxypropyl)-piperazin-4-ylmethyl]-benzoate | Yield 63% | OC(CN1CCN(CC1)CC1=CC=C(C(=O)OC)C=C1)C | C16H24N2O3
